US08084448B2
A. 5-[2-Benzyloxy-4-(1-propyl-1H-pyrazol-4-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-4-one
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (100 mg, 0.225 mmol), 1-propyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (106 mg, 0.45 mmol), resin-bound PPh3Pd (177 mg, loading 0.13 mmol/g) and aqueous Na2CO3 (0.45 mL of a 2M solution) in DME (3 mL) is heated in a microwave apparatus at 110° C. for 10 min. The mixture is filtered and the solvent removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.225 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 1-propyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.45 mmol, 106 mg | C(CC)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H21BN2O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
product | 5-[2-Benzyloxy-4-(1-propyl-1H-pyrazol-4-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-4-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=1C=NN(C1)CCC)N1C(CNS1(=O)=O)=O | C21H22N4O4S
